US04447422
(a) 2-Benzoylamino-4-hydroxypyrimidine-5-carboxylic acid
2-Amino-4-hydroxypyrimidine-5-carboxylic acid (310 mg, 2 mmol) was suspended in chloroform (20 ml) and treated with triethylamine (880 μl, 6.2 mmol) and trimethylsilylchloride (850 μl, 6.2 mmol) at reflux for 4 hours. Benzoyl chloride (250 μl, 2 mmol) was added and the reaction mixture allowed to cool overnight. Water (10 ml) was added with very vigorous stirring and the solid product was dissolved in the aqueous layer by addition of 10% NaOH. After washing the aqueous layer with further chloroform, the product was precipitated by acidification to pH 0. The filtered product was washed with water and ether. Yield 374 mg (72%)

reactant | 2-Amino-4-hydroxypyrimidine-5-carboxylic acid | 2 mmol, 310 mg | NC1=NC=C(C(=N1)O)C(=O)O | C5H5N3O3
reactant | triethylamine | 6.2 mmol, 880 μl | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylchloride | 6.2 mmol, 850 μl | C[Si](C)(C)Cl | C3H9ClSi
reactant | Benzoyl chloride | 2 mmol, 250 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | NaOH | [OH-].[Na+]
solvent | Water | 10 ml | O | H2O
product | 2-Benzoylamino-4-hydroxypyrimidine-5-carboxylic acid | C(C1=CC=CC=C1)(=O)NC1=NC=C(C(=N1)O)C(=O)O | C12H9N3O4
